US06710078B2
According to the procedure of Method A, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with 4-mercapto-1-butanol to provide 5-[2-[(4-hydroxybutyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one: 1H NMR (CDCl3) δ1.52-1.70 (broad s with fine structure, ˜5H) and 1.65 and 1.67 (singlets, 3H), 2.41 (m, 2H), 3.08-3.24 (m, 2H), 3.60 (m, 2H), 4.40 (m, 1H), 5.37 and 5.39 (singlets, 1H), 7.05-7.16 (m, 2H), 7.25-7.40 (m, 6H); MS (HR-EI) m/z 388.1161 (M+ calcd. for C21H24O3S2 388.1167).

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | 4-mercapto-1-butanol | SCCCCO | C4H10OS
product | 5-[2-[(4-hydroxybutyl)thio]-2-(3-thienyl)ethyl]-2-methyl-2-phenylfuran-3(2H)-one | OCCCCSC(CC1=CC(C(O1)(C1=CC=CC=C1)C)=O)C1=CSC=C1 | C21H24O3S2
